US04042706
2.2 g. of [4-phenyl-1-(4-tolyl)-3-pyrazolyl]-acetyl chloride crude product are reacted with 5 ml. of absolute benzene and 5 ml. of absolute ethanol. 0.2 ml. of pyridine are added dropwise to this mixture, which is allowed to stand at room temperature for 16 hours, and then diluted with 20 ml. of benzene. The reaction mixture then is washed in turn with water, diluted hydrochloric acid and water; dried and concentrated in vacuum. The residue is recrystallized from acetone/hexane. 1.7 g. of [4-phenyl-1-(4-tolyl)-3-pyrazolyl]-acetic acid ethyl ester with a melting point of 76°-79° C., is obtained.

reactant | [4-phenyl-1-(4-tolyl)-3-pyrazolyl]-acetyl chloride | C1(=CC=CC=C1)C=1C(=NN(C1)C1=CC=C(C=C1)C)CC(=O)Cl | C18H15ClN2O
reactant | ethanol | C(C)O | C2H6O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | [4-phenyl-1-(4-tolyl)-3-pyrazolyl]-acetic acid ethyl ester | C(C)OC(CC1=NN(C=C1C1=CC=CC=C1)C1=CC=C(C=C1)C)=O | C20H20N2O2
